US07763602B2
Step-3: 1-{[1,5-bis(4-chlorophenyl)-2-methylpyrrol-3yl]methyl}-4-(3-trifluoromethyl phenyl)piperazine
To a stirred solution of 1,2-bis(4-chlorophenyl)-5-methylpyrrole (1.76 g, 0.006 mol, as obtained in Step-2) in acetonitrile (18 ml) was added a mixture of 1-(3-trifluoromethylphenyl) piperazine hydrochloride (1.55 g, 0.006 mol), 40% formaldehyde (0.45 ml, 0.006 mol) and acetic acid (5.23 ml) drop-wise. After the completion of addition, the reaction mixture was stirred at room temperature for 3-4 hours. The reaction mixture was neutralized with NaOH (20% aq. soln.) and extracted with ethyl acetate (2×100 ml). The combined ethyl acetate extract was washed with water (2×50 ml), brine (1×30 ml), dried over anhydrous sodium sulfate and the solvent evaporated off. The crude product so obtained was purified by column chromatography over silica gel using ethyl acetate hexane (80:10) as eluent to give 2.1 g (66.24%) of the title compound.

reactant | 1,2-bis(4-chlorophenyl)-5-methylpyrrole | 0.006 mol, 1.76 g | ClC1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)Cl | C17H13Cl2N
reactant | 1-(3-trifluoromethylphenyl) piperazine hydrochloride | 0.006 mol, 1.55 g | Cl.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | formaldehyde | 0.006 mol, 0.45 ml | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
solvent | acetic acid | 5.23 ml | C(C)(=O)O | C2H4O2
product | 1-{[1,5-bis(4-chlorophenyl)-2-methylpyrrol-3yl]methyl}-4-(3-trifluoromethyl phenyl)piperazine | 2.1 g, 66.24% | ClC1=CC=C(C=C1)N1C(=C(C=C1C1=CC=C(C=C1)Cl)CN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)C | C29H26Cl2F3N3
